US07420055B2
Synthesis of N-[4-Chloro-2-(pyridine4-carbonyl)-phenyl]-4-(cis-2,6-dimethyl-morpholin-4-y1)-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of heterocyclyl and heteroaryl substituted phenylsulfonyl derivatives previously described, using 4-Bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide 0.3 g (0.66 mmol), potassium phosphate tribasic monohydrate 0.91 g (3.96 mmol), rac-2,2′-bis diphenylphosphino)-1,1′-binaphthyl 0.12 g (0.198 mmol), cis-2,6-dimethylmorpholine 0.37 g (3.3 mmol) and Pd (dba)3 60 mg (0.066 mmol) in 6 ml dioxane, followed by work up and HPLC purification: LC-MSD, m/z for C24H24ClN3O4S [M+H]+: 486.0

reactant | 4-Bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | 0.66 mmol, 0.3 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C18H12BrClN2O3S
reactant | potassium phosphate tribasic monohydrate | 3.96 mmol, 0.91 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,1′-binaphthyl | 0.198 mmol, 0.12 g | C1(=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C20H14
reactant | cis-2,6-dimethylmorpholine | 3.3 mmol, 0.37 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | Pd | 0.066 mmol, 60 mg | [Pd] | Pd
product | N-[4-Chloro-2-(pyridine4-carbonyl)-phenyl]-4-(cis-2,6-dimethyl-morpholin-4-y1)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)N1C[C@H](O[C@H](C1)C)C)C(=O)C1=CC=NC=C1 | C24H24ClN3O4S
